US06627651B1
Into a solution of methyl 7-[(2-ethoxybenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (220 mg) in THF-methanol (5-2.5 ml) was added at room temperature an aqueous solution (1.0 ml) of potassium carbonate (151 mg), and the resulting mixture was stirred at 60° C. for 20 hours. After cooling to room temperature, the reaction mixture was mixed with 1 N hydrochloric acid (10 ml) and was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with diisopropyl ether to obtain 7-[(2-ethoxybenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (156 mg) as colorless crystals.

reactant | methyl 7-[(2-ethoxybenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 220 mg | C(C)OC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=CC=C1 | C21H22O6S
reactant | potassium carbonate | 1.0 ml, 151 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N, 10 ml | Cl | ClH
solvent | THF methanol | 5-2.5 ml | C1CCOC1.CO
product | 7-[(2-ethoxybenzyl)oxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 156 mg | C(C)OC1=C(COC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)O)C2)C=CC=C1 | C20H20O6S
